US04576749
(S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone was suspended in 5 ml of dichloromethane and cooled to -10° C. A solution of 12.5% phosgene in toluene (2.9 ml, 3.4 mmol) was added dropwise to the rapidly stirring mixture. After stirring at -10° C. for 2 hours, the volatiles were evaporated without external heating. The residue was cooled to -10° C. and dissolved in 5 ml of dichloromethane to give (S)-1-chlorocarbonyl-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone. The compound was not characterized, but was used as a crude intermediate.

reactant | (S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 3.4 mmol, 2.9 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-1-chlorocarbonyl-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone | ClC(=O)N1C([C@H](C1)NC(=O)OCC1=CC=CC=C1)=O | C12H11ClN2O4
